* C:\Users\rata\Dropbox\Ratatech\projects\ratatech_talkbox\ltspice\talkbox.asc
C1 tone_control_out N002 22pF
R1 tone_control_out N001 1.8k
R3 N001 in 1.8k
R4 N002 N001 22k
R5 N003 N002 9.1k
C3 N004 N003 4.7nF
R6 N004 in {R}
V2 Vcc 0 11.9
V3 0 Vee 11.9
XU1 0 N002 Vcc Vee tone_control_out OP27
R7 tone_control_out N004 {R_SUB}
R2 N009 0 {R_VOL}
R8 preamp_out N009 {R_VOL_SUB}
V4 in 0 SINE(0 0.15 1000) AC 1
C2 N008 N010 0.05µF
R9 N010 0 10
C4 power_amp_out N008 250µF
XU3 NC_01 0 N009 0 N008 Vcc NC_02 NC_03 lm386
R10 N005 N005 {R_GAIN}
R11 preamp_out N005 {R_GAIN_SUB}
XU2 N007 N005 Vcc Vee preamp_out OP27
R12 N005 N006 10k
C5 N007 tone_control_out 10µF
R16 0 N007 1000k
C7 N006 0 10µF
.options gmin=1e-9
.options abstol=1e-10
.options reltol=0.003
.options cshunt=1e-15
.option  ITL6=100
.ac oct 100 10 30K
.param R_SUB=10K-{R}+10
.param R=5K
.step param R 10 10000 1000
.param R_GAIN=0.1
.param R_GAIN_SUB=20K-{R_GAIN}+10
;tran 0.010
;.step param R_GAIN 10 20000 2000
* PARAMETERS
* SIMULATION
.param R_VOL=5k
;.step param R_VOL 10 10000 500
.param R_VOL_SUB=10K-{R_VOL}+10
.lib ADI.lib
.lib C:\Users\rata\Dropbox\Ratatech\projects\ratatech_talkbox\ltspice\libs\lm386.subckt
.backanno
.end
